R1 (net12 net17) R=6.6E0
T2 (net8 net19 net19 0) nfet L=4.92E-6 W=8.67E-6
T3 (net16 net27 net27 0) nfet L=1.63E-6 W=8.47E-6
R4 (net6 net9) R=8.5E2
R5 ( net9 net26)  R=6.6E4
T6 ( net26 net22 0 0)  nfet  L=3.16E-6 W=6.81E-6
T7 ( net6 net22 0 0)  nfet  L=3.16E-6 W=6.81E-6
T8 ( net27 net26 net6 0)  nfet  L=3.16E-6 W=6.81E-6
T9 (net12 net24 net24 0) pfet L=6.30E-6 W=1.75E-6
R10 ( net5 net7)  R=7.8E6
T11 ( net7 net7 0 0)  nfet  L=6.78E-6 W=2.26E-6
T12 ( net18 net7 0 0)  nfet  L=6.78E-6 W=2.26E-6
T13 (vdd! net12 net12 0) pfet L=9.03E-6 W=2.25E-6
C14 (net1 net20) C=0.8E-10
R15 (net16 net27) R=8.2E4
C16 (net9 net16) C=9.8E-11
R17 (net5 net12) R=3.6E1
C18 (net20 net1) C=9.9E-13
T19 (net19 net2 net2 0) nfet L=8.79E-6 W=4.65E-6
C20 (net3 net19) C=2.4E-11
C21 (net9 net20) C=8.4E-5
R22 (net1 net18) R=7.9E3
R23 (vdd! net27) R=5.9E6
R24 (net16 net10) R=1.4E5
T25 (net9 net2 net2 0) pfet L=3.83E-6 W=5.67E-6
T26 (net2 net5 net5 0) pfet L=3.38E-6 W=5.07E-6
T27 (net13 net17 net17 0) pfet L=3.82E-6 W=0.57E-6
C28 (net12 net10) C=5.8E-11
T29 (net9 net12 net12 0) nfet L=7.12E-6 W=8.18E-6
T30 (net9 net4 net4 0) pfet L=2.27E-6 W=8.89E-6
T31 (vdd! net10 net10 0) nfet L=2.49E-6 W=7.23E-6
T32 (net9 net11 net11 0) nfet L=7.25E-6 W=8.12E-6
T33 (net14 net28 net28 0) nfet L=0.15E-6 W=0.99E-6
C34 (net4 0) C=9.5E-9
R35 (net2 net1) R=2.8E0
T36 (net8 net19 net19 0) pfet L=9.78E-6 W=0.19E-6
R37 (net23 net14) R=0.3E2
C38 (0 net5) C=3.6E-10
R39 (net17 net14) R=2.7E3
T40 (net24 net11 net11 0) nfet L=2.84E-6 W=7.64E-6
T41 (net14 net23 net23 0) nfet L=1.49E-6 W=7.18E-6
R42 (net24 net17) R=2.4E3
C43 (net20 net16) C=0.4E-7
T44 (net1 net28 net28 0) pfet L=3.86E-6 W=3.07E-6
T45 (net11 net21 net21 0) pfet L=5.45E-6 W=1.31E-6
T46 (net28 net2 net2 0) nfet L=6.25E-6 W=4.59E-6
R47 (net18 net9) R=9.0E5
T48 (net28 net28 net28 0) pfet L=1.85E-6 W=7.61E-6
T49 (net16 net5 net5 0) pfet L=1.03E-6 W=7.35E-6
T50 (net16 net1 net1 0) nfet L=6.68E-6 W=4.32E-6
T51 (0 net14 net14 0) pfet L=5.36E-6 W=2.77E-6
T52 (0 net28 net28 0) nfet L=1.62E-6 W=5.43E-6
C53 (net17 net15) C=1.4E-7
C54 (net20 net21) C=3.9E-6
T55 (net8 0 0 0) pfet L=0.45E-6 W=0.75E-6
T56 (net28 net5 net5 0) pfet L=2.10E-6 W=6.34E-6
R57 (net13 0) R=1.8E0
R58 (net2 net18) R=8.2E2
T59 (net25 net15 net15 0) pfet L=6.95E-6 W=8.90E-6
C60 (net23 net12) C=0.2E-12
C61 (net28 net27) C=9.5E-12
T62 (vdd! net15 net15 0) nfet L=1.24E-6 W=7.98E-6
T63 (net2 net21 net21 0) pfet L=5.44E-6 W=7.30E-6
T64 (0 net24 net24 0) nfet L=7.95E-6 W=3.46E-6
C65 (net3 net2) C=2.5E-9
C66 (net1 net28) C=6.4E-6
C67 (net23 net2) C=4.9E-9
C68 (net20 vdd!) C=6.4E-7
R69 (net28 0) R=9.9E6
C70 (vdd! net28) C=0.2E-5
C71 (net4 net16) C=4.4E-14
C72 (net5 net18) C=6.8E-12
R73 (0 net2) R=7.2E5
T74 (net10 net28 net28 0) pfet L=4.24E-6 W=9.77E-6
R75 (0 net11) R=6.1E2
C76 (net2 net9) C=9.2E-5
C77 (net8 net5) C=9.6E-8
T78 (0 net24 net24 0) nfet L=2.74E-6 W=4.21E-6
T79 (0 net23 net23 0) nfet L=6.82E-6 W=1.04E-6
T80 (net17 net28 net28 0) pfet L=7.93E-6 W=7.86E-6
C81 (net23 net13) C=9.8E-8
T82 (net21 net15 net15 0) pfet L=7.79E-6 W=2.28E-6
R83 (net16 net20) R=6.8E2
T84 (vdd! net10 net10 0) pfet L=4.43E-6 W=9.92E-6
C85 (net14 net12) C=7.7E-14
T86 (net17 net4 net4 0) nfet L=9.86E-6 W=5.67E-6
R87 (net23 net1) R=5.0E2
R88 (0 net4) R=3.0E1
T89 (vdd! vdd! vdd! 0) pfet L=5.10E-6 W=1.13E-6
T90 (net8 net23 net23 0) nfet L=0.75E-6 W=5.56E-6
T91 (net8 net4 net4 0) nfet L=6.29E-6 W=0.57E-6
T92 (net17 net15 net15 0) nfet L=1.79E-6 W=1.11E-6
T93 (net23 net25 net25 0) nfet L=8.03E-6 W=4.88E-6
T94 (0 net28 net28 0) nfet L=8.23E-6 W=2.89E-6
C95 (0 net20) C=1.9E-9
T96 (net16 net4 net4 0) pfet L=8.71E-6 W=3.11E-6
R97 (net17 net24) R=6.2E5
C98 (net5 net21) C=9.5E-12
C99 (net9 net28) C=5.7E-14
R100 (net5 net20) R=7.0E2
C101 (net4 net17) C=9.9E-12
T102 (net21 net19 net19 0) pfet L=3.58E-6 W=6.68E-6
C103 (vdd! net8) C=7.9E-9
R104 (net20 net28) R=4.8E3
R105 (net21 net10) R=0.2E4
T106 (net18 net28 net28 0) nfet L=9.44E-6 W=7.29E-6
T107 (net3 net18 net18 0) nfet L=5.65E-6 W=5.66E-6
T108 (net19 vdd! vdd! 0) nfet L=6.99E-6 W=0.44E-6
C109 (vdd! net17) C=6.0E-10
T110 (net10 vdd! vdd! 0) nfet L=6.23E-6 W=6.92E-6
T111 (net3 net4 net4 0) pfet L=7.63E-6 W=7.18E-6
T112 (net5 net24 net24 0) nfet L=8.73E-6 W=9.45E-6
R113 (net5 net3) R=8.0E2
R114 (net11 net3) R=4.3E3
T115 (net17 net14 net14 0) pfet L=2.11E-6 W=8.18E-6
C116 (net12 net24) C=1.4E-5
C117 (net18 net15) C=7.4E-14
T118 (vdd! net11 net11 0) pfet L=1.91E-6 W=9.13E-6
R119 (net25 net3) R=8.0E1
R120 (net28 net2) R=3.4E4
T121 (net13 net16 net16 0) pfet L=2.03E-6 W=0.45E-6
T122 (net20 net11 net11 0) nfet L=9.58E-6 W=6.23E-6
C123 (net28 net4) C=6.6E-13
R124 (0 vdd!) R=6.2E2
T125 (net15 net5 net5 0) nfet L=6.65E-6 W=3.72E-6
T126 (net2 net24 net24 0) pfet L=8.88E-6 W=5.98E-6
R127 (net10 net9) R=9.3E2
R128 (net14 net15) R=1.7E2
R129 (net19 net17) R=9.2E5
C130 (net15 net3) C=5.9E-8
T131 (net20 net13 net13 0) nfet L=5.36E-6 W=9.86E-6
C132 (net3 net17) C=8.6E-11
T133 (0 net14 net14 0) nfet L=4.85E-6 W=7.64E-6
R134 (net14 net17) R=5.0E4
T135 (net3 net2 net2 0) pfet L=0.37E-6 W=1.36E-6
T136 (net9 net10 net10 0) nfet L=2.54E-6 W=8.14E-6
T137 (net23 0 0 0) pfet L=6.08E-6 W=7.14E-6
T138 (net16 net17 net17 0) nfet L=9.81E-6 W=6.55E-6
T139 (net1 0 0 0) nfet L=6.38E-6 W=4.27E-6
T140 (net28 net23 net23 0) pfet L=8.24E-6 W=6.68E-6
T141 (net10 net11 net11 0) pfet L=1.03E-6 W=4.01E-6
T142 (net13 net18 net18 0) pfet L=2.42E-6 W=6.46E-6
R143 (net14 net25) R=6.4E6
C144 (net20 net9) C=5.3E-11
C145 (net16 net14) C=0.3E-5
T146 (net5 net19 net19 0) nfet L=2.13E-6 W=5.91E-6
C147 (net8 net9) C=3.6E-12
T148 (net19 net23 net23 0) pfet L=5.63E-6 W=0.55E-6
T149 (net1 net5 net5 0) nfet L=4.82E-6 W=5.12E-6
T150 (net8 net13 net13 0) pfet L=8.69E-6 W=3.00E-6
R151 (net11 net18) R=1.5E6
T152 (net23 net16 net16 0) pfet L=5.78E-6 W=5.69E-6
R153 (net11 net28) R=6.6E2
R154 (net1 net11) R=2.9E5
R155 (net21 net12) R=8.5E2
T156 (net4 net14 net14 0) nfet L=8.89E-6 W=1.65E-6
R157 (net27 net18) R=0.9E3
T158 (net18 vdd! vdd! 0) nfet L=5.38E-6 W=1.41E-6
R159 (net12 net25) R=9.8E6
R160 (net21 net17) R=3.3E3
T161 (net1 net21 net21 0) nfet L=3.96E-6 W=7.41E-6
R162 (net5 net14) R=9.8E0
T163 (vdd! net28 net28 0) pfet L=1.89E-6 W=6.08E-6
T164 (0 net16 net16 0) nfet L=3.32E-6 W=0.81E-6
T165 (vdd! net2 net2 0) pfet L=6.32E-6 W=8.04E-6
C166 (net9 net5) C=4.5E-7
T167 (net1 net1 net1 0) pfet L=0.47E-6 W=7.09E-6
C168 (vdd! net17) C=1.3E-5
T169 (net5 net24 net24 0) pfet L=5.54E-6 W=2.45E-6
R170 (net28 net25) R=4.1E4
T171 (net3 net19 net19 0) nfet L=9.74E-6 W=8.81E-6
T172 (net16 net12 net12 0) nfet L=8.40E-6 W=6.96E-6
C173 (net20 net24) C=5.5E-12
T174 (net14 net13 net13 0) pfet L=9.14E-6 W=4.38E-6
T175 (0 net18 net18 0) nfet L=9.31E-6 W=9.73E-6
T176 (net15 net28 net28 0) nfet L=5.38E-6 W=6.83E-6
R177 (net11 net24) R=7.5E5
T178 (net18 net16 net16 0) pfet L=9.61E-6 W=5.71E-6
C179 (net13 net21) C=7.7E-6
T180 (net28 net24 net24 0) nfet L=4.75E-6 W=0.37E-6
C181 (net11 net3) C=9.9E-13
C182 (net20 net12) C=8.2E-6
T183 (net16 vdd! vdd! 0) pfet L=7.60E-6 W=5.10E-6
R184 (net12 net25) R=1.8E6
T185 (net2 net11 net11 0) pfet L=1.21E-6 W=4.89E-6
R186 (net5 net28) R=1.0E3
C187 (net25 net28) C=0.8E-9
R188 (net20 net10) R=0.6E4
T189 (net3 net5 net5 0) pfet L=5.21E-6 W=5.34E-6
C190 (net28 net24) C=2.4E-10
R191 (net19 net2) R=3.9E4
C192 (net27 net2) C=4.7E-11
T193 (0 net3 net3 0) nfet L=1.20E-6 W=2.24E-6
T194 (net15 net1 net1 0) pfet L=7.43E-6 W=7.30E-6
T195 (net13 net15 net15 0) nfet L=3.64E-6 W=4.47E-6
T196 (net13 net24 net24 0) nfet L=9.03E-6 W=1.21E-6
C197 (net27 net24) C=3.1E-7
R198 (net1 net14) R=3.3E2
R199 (net11 net28) R=4.5E4
T200 (net14 net14 net14 0) nfet L=2.64E-6 W=7.13E-6
C201 (net28 net5) C=5.7E-8
C202 (net11 net15) C=0.5E-7
C203 (net18 net12) C=4.3E-9
R204 (net1 net24) R=5.3E4
R205 (net9 net28) R=3.1E5
T206 (net20 net4 net4 0) pfet L=6.41E-6 W=6.16E-6
T207 (net4 net15 net15 0) pfet L=9.92E-6 W=0.51E-6
C208 (vdd! net24) C=7.9E-6
R209 (net12 net18) R=3.5E0
C210 (net20 net15) C=1.0E-14
R211 (net14 net24) R=0.9E3
T212 (net2 net23 net23 0) pfet L=0.38E-6 W=6.34E-6
C213 (net15 net14) C=2.9E-14
T214 (net24 net21 net21 0) nfet L=9.55E-6 W=0.55E-6
R215 (0 net18) R=9.1E2
T216 (net19 net11 net11 0) nfet L=9.95E-6 W=2.46E-6
T217 (vdd! net3 net3 0) nfet L=4.88E-6 W=9.24E-6
T218 (net25 net25 net25 0) pfet L=9.06E-6 W=6.01E-6
C219 (net11 net2) C=9.2E-12
T220 (net13 net17 net17 0) nfet L=4.40E-6 W=4.03E-6
C221 (net24 net14) C=9.7E-12
T222 (net13 net8 net8 0) pfet L=7.22E-6 W=3.45E-6
T223 (net14 net9 net9 0) pfet L=1.85E-6 W=1.72E-6
R224 (net2 net11) R=2.8E2
C225 (net5 net25) C=7.6E-8
R226 (net19 net10) R=3.7E5
T227 (net5 net15 net15 0) nfet L=4.34E-6 W=1.29E-6
R228 (net5 net27) R=9.8E6
C229 (net28 net13) C=8.6E-13
R230 (0 net13) R=2.3E2
C231 (net4 0) C=0.3E-6
T232 (net24 net2 net2 0) nfet L=4.39E-6 W=8.98E-6
T233 (net19 net23 net23 0) nfet L=3.26E-6 W=9.28E-6
T234 (net28 net18 net18 0) nfet L=9.48E-6 W=9.96E-6
T235 (net11 net21 net21 0) pfet L=2.44E-6 W=0.33E-6
T236 (0 net19 net19 0) pfet L=8.98E-6 W=1.72E-6
T237 (net5 0 0 0) nfet L=7.18E-6 W=9.34E-6
T238 (net21 net23 net23 0) nfet L=9.20E-6 W=4.15E-6
C239 (vdd! net1) C=9.0E-9
C240 (net15 net16) C=6.4E-7
C241 (net28 net23) C=8.7E-14
T242 (net18 net11 net11 0) pfet L=3.39E-6 W=2.12E-6
T243 (net12 0 0 0) nfet L=2.66E-6 W=7.94E-6
C244 (net1 net20) C=9.9E-7
C245 (vdd! net18) C=0.8E-11
C246 (net3 net12) C=2.3E-5
T247 (net21 net11 net11 0) nfet L=8.59E-6 W=1.40E-6
R248 (net23 net5) R=4.4E4
T249 (net23 net16 net16 0) nfet L=8.38E-6 W=7.94E-6
C250 (net24 net19) C=9.9E-5
T251 (net2 net25 net25 0) pfet L=6.09E-6 W=9.27E-6
C252 (net2 0) C=9.8E-7
T253 (net4 net20 net20 0) pfet L=6.87E-6 W=7.66E-6
C254 (net3 net4) C=4.3E-9
R255 (net4 net17) R=8.5E3
C256 (net20 net5) C=4.5E-5
T257 (net21 net11 net11 0) nfet L=4.68E-6 W=5.82E-6
C258 (net9 net17) C=4.3E-12
R259 (net11 net12) R=5.0E6
R260 (net17 net23) R=8.7E4

