C1 (net9 net13) C=5.8E-9
T2 ( net4 net4 vdd! vdd!)  pfet  L=5.08E-6 W=4.31E-6
T3 ( net2 net4 vdd! vdd!)  pfet  L=5.08E-6 W=4.31E-6
R4 ( net2 net5)  R=0.8E2
T5 (net6 net15 net15 0) nfet L=4.63E-6 W=9.95E-6
T6 ( net11 net11 0 0)  nfet  L=6.03E-6 W=3.74E-6
T7 ( net15 net11 0 0)  nfet  L=6.03E-6 W=3.74E-6
R8 ( net15 net12)  R=9.6E3
T9 (net13 net12 net12 0) nfet L=3.98E-6 W=6.40E-6
T10 (net12 net14 net14 0) pfet L=1.52E-6 W=5.84E-6
T11 (net10 net10 net10 0) nfet L=9.55E-6 W=9.73E-6
R12 (net9 net12) R=9.6E6
C13 (0 net6) C=4.4E-10
R14 (net5 net11) R=7.4E6
R15 (net3 net10) R=1.0E5
R16 (0 net8) R=2.9E1
C17 (net16 net13) C=6.7E-12
T18 (net7 net6 net6 0) nfet L=0.28E-6 W=7.65E-6
R19 (net13 net4) R=0.1E1
C20 (net7 net13) C=0.4E-11
T21 (net3 net14 net14 0) pfet L=1.40E-6 W=0.31E-6
T22 (net10 net10 net10 0) pfet L=3.52E-6 W=1.46E-6
T23 (net14 net10 net10 0) pfet L=1.82E-6 W=3.02E-6
C24 (net8 net12) C=0.5E-11
C25 (vdd! net1) C=8.5E-13
T26 (net13 vdd! vdd! 0) pfet L=2.52E-6 W=9.63E-6
T27 (net6 net13 net13 0) nfet L=0.18E-6 W=3.69E-6
T28 (net5 net1 net1 0) pfet L=1.77E-6 W=3.15E-6
T29 (0 0 0 0) nfet L=2.13E-6 W=3.90E-6
C30 (net16 net11) C=5.6E-12
R31 (net12 net4) R=0.4E5
C32 (net1 net16) C=6.8E-8
T33 (net7 net9 net9 0) nfet L=1.25E-6 W=5.42E-6
C34 (net4 net12) C=3.9E-11
T35 (net3 0 0 0) pfet L=1.67E-6 W=2.04E-6
C36 (net11 net10) C=0.8E-7
C37 (net8 net7) C=4.7E-13
T38 (net12 net1 net1 0) nfet L=7.65E-6 W=7.28E-6
C39 (net3 net7) C=0.3E-12
T40 (net13 net8 net8 0) nfet L=0.63E-6 W=9.14E-6
T41 (net6 net1 net1 0) nfet L=6.94E-6 W=2.65E-6
R42 (net12 net6) R=3.5E5
C43 (net1 vdd!) C=1.4E-10
C44 (net7 net3) C=8.4E-10
T45 (net13 net8 net8 0) pfet L=5.38E-6 W=9.43E-6
T46 (net14 net3 net3 0) nfet L=6.40E-6 W=1.25E-6
T47 (net6 net1 net1 0) nfet L=5.28E-6 W=5.31E-6
T48 (net9 net4 net4 0) nfet L=7.72E-6 W=6.73E-6
T49 (0 net8 net8 0) pfet L=4.76E-6 W=5.92E-6
T50 (net13 net7 net7 0) pfet L=8.55E-6 W=9.16E-6
C51 (net9 net12) C=1.6E-13
C52 (net11 net6) C=6.6E-14
R53 (net5 net13) R=0.9E5
R54 (net8 net11) R=2.3E5
C55 (net4 net7) C=0.4E-8
R56 (net9 vdd!) R=4.0E3
T57 (net1 net9 net9 0) nfet L=8.27E-6 W=1.38E-6
R58 (net1 net10) R=4.8E2
R59 (net3 net11) R=3.2E1
R60 (net6 net8) R=6.5E5
R61 (net7 net14) R=0.4E1
R62 (0 net9) R=8.4E4
T63 (net1 net12 net12 0) pfet L=0.12E-6 W=3.88E-6
C64 (net4 net13) C=0.8E-13
R65 (net11 net6) R=7.8E4
R66 (net6 net3) R=1.2E4
T67 (net14 net3 net3 0) pfet L=2.03E-6 W=5.62E-6
C68 (vdd! net3) C=7.0E-8
C69 (net16 net3) C=9.5E-10
C70 (net11 net5) C=0.2E-9
T71 (net7 net4 net4 0) pfet L=8.03E-6 W=2.87E-6
C72 (net5 net10) C=7.1E-7
C73 (net8 net16) C=3.7E-9
R74 (net11 net6) R=9.7E1
R75 (net6 net7) R=4.6E5
R76 (net8 net14) R=3.6E4
R77 (net10 net13) R=8.0E1
C78 (net4 net14) C=7.5E-10
C79 (net10 net11) C=3.3E-8
T80 (vdd! net16 net16 0) nfet L=5.15E-6 W=4.29E-6
T81 (net4 net10 net10 0) nfet L=7.06E-6 W=0.84E-6
T82 (net16 net6 net6 0) pfet L=2.70E-6 W=3.75E-6
T83 (net4 net12 net12 0) pfet L=6.21E-6 W=2.72E-6
T84 (net3 net14 net14 0) pfet L=6.73E-6 W=0.14E-6
R85 (net1 net16) R=6.5E6
R86 (net11 vdd!) R=1.0E1
T87 (net11 net9 net9 0) nfet L=4.80E-6 W=6.29E-6
T88 (net6 net12 net12 0) nfet L=8.14E-6 W=8.31E-6
C89 (net13 net4) C=8.0E-14
T90 (net8 net10 net10 0) nfet L=0.24E-6 W=0.28E-6
C91 (net7 net13) C=6.8E-12
T92 (net1 net3 net3 0) nfet L=8.89E-6 W=6.40E-6
R93 (0 net11) R=8.2E3
T94 (net16 net5 net5 0) nfet L=7.22E-6 W=7.65E-6
R95 (net12 net16) R=3.6E0
R96 (net16 net6) R=1.0E5
T97 (net11 net12 net12 0) nfet L=6.09E-6 W=6.16E-6
T98 (net6 net4 net4 0) nfet L=7.35E-6 W=1.38E-6
T99 (net1 net5 net5 0) nfet L=2.34E-6 W=5.01E-6
C100 (net12 net4) C=10.0E-14
R101 (net6 net13) R=7.3E5
R102 (net3 net12) R=9.3E2
T103 (0 net4 net4 0) pfet L=1.38E-6 W=8.27E-6
T104 (net12 net11 net11 0) pfet L=8.98E-6 W=8.42E-6
C105 (net13 net8) C=7.6E-7
R106 (net8 net16) R=4.8E3
T107 (net7 net10 net10 0) nfet L=1.97E-6 W=2.87E-6
T108 (net13 net6 net6 0) pfet L=3.38E-6 W=6.39E-6
T109 (net7 net7 net7 0) nfet L=7.47E-6 W=3.28E-6
R110 (net4 vdd!) R=0.5E0
R111 (net4 net8) R=2.3E6
T112 (net9 net5 net5 0) pfet L=2.90E-6 W=7.39E-6
C113 (net14 net1) C=5.3E-5
T114 (net3 net13 net13 0) pfet L=9.34E-6 W=5.80E-6
C115 (vdd! net12) C=9.4E-14
R116 (net10 net1) R=5.2E0
T117 (net9 net13 net13 0) pfet L=7.76E-6 W=5.57E-6
R118 (net5 net4) R=7.8E0
T119 (net10 net5 net5 0) nfet L=7.67E-6 W=0.67E-6
T120 (net3 net9 net9 0) nfet L=8.05E-6 W=3.84E-6
T121 (net4 net11 net11 0) nfet L=1.80E-6 W=2.23E-6
T122 (net3 net14 net14 0) nfet L=7.08E-6 W=1.93E-6
R123 (net9 net13) R=9.6E2
C124 (net8 net16) C=3.2E-14
C125 (vdd! net6) C=6.2E-9
C126 (net12 net6) C=8.9E-7
R127 (net4 net3) R=2.3E0
T128 (net9 net7 net7 0) nfet L=7.24E-6 W=2.69E-6
C129 (net10 0) C=3.7E-7
T130 (net11 net4 net4 0) nfet L=6.20E-6 W=5.41E-6
T131 (net1 net4 net4 0) nfet L=2.57E-6 W=0.81E-6
T132 (net9 net14 net14 0) nfet L=7.26E-6 W=1.05E-6
T133 (net4 net16 net16 0) nfet L=8.25E-6 W=6.51E-6
C134 (net9 net10) C=1.5E-5
T135 (net4 net12 net12 0) pfet L=4.18E-6 W=5.77E-6
T136 (net12 net1 net1 0) nfet L=9.35E-6 W=2.59E-6
R137 (net11 net14) R=8.7E6
T138 (net5 net5 net5 0) pfet L=8.10E-6 W=1.79E-6
C139 (net5 net12) C=5.6E-6
C140 (net9 net1) C=1.4E-10
T141 (net3 net13 net13 0) pfet L=9.02E-6 W=4.75E-6
R142 (net7 net16) R=4.9E2
R143 (net4 net5) R=6.4E4
C144 (0 net11) C=0.2E-14
C145 (net4 vdd!) C=2.3E-8
R146 (net16 net6) R=9.1E6
C147 (net1 net16) C=6.2E-9
R148 (net5 net16) R=6.7E4
R149 (net3 0) R=0.5E0
C150 (net3 net8) C=7.0E-9
C151 (net12 net5) C=6.4E-12
T152 (net16 net11 net11 0) nfet L=5.15E-6 W=9.96E-6
T153 (net1 net9 net9 0) nfet L=1.51E-6 W=0.39E-6
C154 (net6 net16) C=0.5E-10
C155 (net12 net1) C=10.0E-6
C156 (net3 0) C=1.3E-8
C157 (net10 net13) C=9.5E-7
T158 (net6 net16 net16 0) nfet L=8.15E-6 W=6.80E-6
C159 (0 net4) C=1.4E-5
C160 (net7 0) C=7.9E-11
C161 (net7 net3) C=6.3E-12
C162 (net12 net3) C=7.4E-10
T163 (net11 net7 net7 0) pfet L=9.67E-6 W=6.31E-6
C164 (net9 net10) C=7.8E-9
T165 (net11 net11 net11 0) pfet L=6.65E-6 W=5.78E-6
R166 (net5 net16) R=1.9E4
R167 (net5 net12) R=3.0E3
C168 (net4 net12) C=9.2E-5
C169 (net13 net4) C=3.2E-12
T170 (net9 net8 net8 0) pfet L=3.77E-6 W=3.89E-6
T171 (0 net8 net8 0) pfet L=2.63E-6 W=6.13E-6
C172 (net13 net14) C=9.6E-10
R173 (vdd! net1) R=5.5E2
T174 (net13 net9 net9 0) pfet L=2.64E-6 W=1.73E-6
R175 (net6 net12) R=7.1E0
T176 (net11 vdd! vdd! 0) pfet L=6.58E-6 W=3.14E-6
T177 (0 net14 net14 0) pfet L=5.60E-6 W=9.89E-6
R178 (net10 0) R=2.8E6
R179 (net1 net9) R=2.6E0
R180 (net13 net12) R=4.1E0
R181 (net11 net9) R=1.0E3
C182 (net8 net1) C=8.4E-13
R183 (net8 net10) R=9.7E6
C184 (net14 net3) C=4.2E-8
C185 (net8 vdd!) C=2.8E-5
C186 (net3 net10) C=0.6E-6
R187 (net10 net7) R=3.5E3
T188 (net8 net3 net3 0) nfet L=0.59E-6 W=8.88E-6
R189 (net6 net10) R=2.8E2
T190 (net14 net14 net14 0) nfet L=5.85E-6 W=7.61E-6
T191 (net3 vdd! vdd! 0) nfet L=2.68E-6 W=6.25E-6
T192 (net10 net4 net4 0) pfet L=7.75E-6 W=9.16E-6
C193 (net13 net4) C=8.5E-11
C194 (net13 net7) C=1.8E-13
C195 (net16 net7) C=9.5E-13
T196 (net8 net5 net5 0) nfet L=1.02E-6 W=2.50E-6
T197 (net3 net3 net3 0) pfet L=8.54E-6 W=0.66E-6
C198 (net7 net12) C=9.8E-10
T199 (net7 net3 net3 0) pfet L=5.19E-6 W=4.90E-6
T200 (net3 net3 net3 0) nfet L=4.44E-6 W=1.24E-6
T201 (net7 net8 net8 0) nfet L=8.09E-6 W=5.25E-6
C202 (net4 net14) C=6.8E-8
T203 (net12 net10 net10 0) pfet L=3.15E-6 W=1.83E-6
R204 (net5 net9) R=3.4E6
T205 (net7 net13 net13 0) nfet L=8.68E-6 W=5.26E-6
T206 (net6 net8 net8 0) pfet L=3.96E-6 W=3.25E-6
C207 (net4 net9) C=0.6E-11
T208 (net13 net10 net10 0) pfet L=4.09E-6 W=9.30E-6
T209 (net10 net14 net14 0) nfet L=7.50E-6 W=5.35E-6
R210 (0 net8) R=3.6E2
T211 (net6 net6 net6 0) nfet L=8.68E-6 W=2.51E-6
T212 (net6 net13 net13 0) pfet L=3.30E-6 W=9.52E-6
T213 (net5 0 0 0) nfet L=4.82E-6 W=6.51E-6
R214 (net16 net6) R=3.9E6
R215 (net9 net3) R=2.7E1
C216 (net12 net3) C=1.9E-10
T217 (net8 net13 net13 0) nfet L=7.12E-6 W=1.24E-6
T218 (net14 net7 net7 0) nfet L=5.80E-6 W=5.19E-6
T219 (net11 net5 net5 0) nfet L=4.58E-6 W=1.02E-6
T220 (net3 net11 net11 0) pfet L=7.00E-6 W=5.39E-6
C221 (net14 0) C=3.9E-6
C222 (net10 net1) C=2.3E-11
T223 (net12 net14 net14 0) nfet L=2.53E-6 W=1.24E-6
C224 (net8 net3) C=9.5E-5
C225 (net16 net3) C=8.6E-10
T226 (net10 0 0 0) pfet L=5.15E-6 W=8.86E-6
T227 (net16 0 0 0) nfet L=8.07E-6 W=2.84E-6
C228 (vdd! net12) C=1.5E-5
C229 (net6 net7) C=2.3E-9
T230 (net8 net6 net6 0) nfet L=6.46E-6 W=9.47E-6
T231 (net4 net4 net4 0) pfet L=7.74E-6 W=7.46E-6
T232 (net10 net9 net9 0) nfet L=8.28E-6 W=7.10E-6
T233 (net12 net10 net10 0) nfet L=3.82E-6 W=3.37E-6
T234 (net12 net5 net5 0) pfet L=9.91E-6 W=5.77E-6
T235 (net12 net11 net11 0) pfet L=0.17E-6 W=7.63E-6
T236 (net16 net9 net9 0) nfet L=4.56E-6 W=5.03E-6
T237 (net14 net6 net6 0) pfet L=5.32E-6 W=7.34E-6
T238 (net13 net5 net5 0) pfet L=1.29E-6 W=5.43E-6
T239 (net7 net14 net14 0) pfet L=7.61E-6 W=0.66E-6
C240 (net4 net6) C=7.1E-8
C241 (net1 vdd!) C=6.4E-11
T242 (net10 net13 net13 0) nfet L=3.35E-6 W=0.27E-6
T243 (net12 net9 net9 0) nfet L=7.63E-6 W=6.51E-6
T244 (net11 net16 net16 0) pfet L=6.94E-6 W=7.76E-6
T245 (net4 net11 net11 0) nfet L=5.05E-6 W=3.54E-6
T246 (net13 net14 net14 0) nfet L=9.83E-6 W=6.85E-6
R247 (net8 net9) R=5.8E5
C248 (net12 net14) C=6.9E-12
R249 (net14 net8) R=4.1E3
T250 (net14 net9 net9 0) nfet L=9.80E-6 W=9.05E-6
T251 (net6 net1 net1 0) pfet L=2.71E-6 W=2.75E-6
C252 (net4 net8) C=7.7E-13
C253 (net14 net12) C=3.4E-9
C254 (net3 net6) C=6.1E-12
T255 (net1 net5 net5 0) nfet L=7.44E-6 W=8.38E-6
C256 (net13 net16) C=5.2E-12
R257 (net11 net4) R=6.5E6
T258 (net7 net14 net14 0) pfet L=1.15E-6 W=4.23E-6
T259 (net7 net12 net12 0) nfet L=7.48E-6 W=5.08E-6
R260 (net1 net10) R=8.0E5
C261 (net10 net7) C=0.8E-13
T262 (net1 vdd! vdd! 0) pfet L=4.19E-6 W=3.67E-6
T263 (net3 net5 net5 0) pfet L=8.16E-6 W=9.25E-6
R264 (net6 net11) R=7.3E1
T265 (net6 net1 net1 0) nfet L=5.44E-6 W=9.49E-6
C266 (net9 net4) C=6.4E-6
R267 (net7 net11) R=1.9E6
T268 (net6 net14 net14 0) nfet L=9.36E-6 W=2.31E-6
R269 (0 vdd!) R=6.5E0
T270 (net5 net9 net9 0) nfet L=3.06E-6 W=7.21E-6
T271 (net5 net5 net5 0) nfet L=5.01E-6 W=8.79E-6
T272 (net14 net11 net11 0) nfet L=5.02E-6 W=0.66E-6
C273 (net4 vdd!) C=5.1E-13
C274 (net11 net5) C=1.3E-10
T275 (net8 net7 net7 0) nfet L=8.10E-6 W=3.79E-6
C276 (net14 net1) C=1.5E-8
T277 (net12 net10 net10 0) pfet L=0.50E-6 W=6.78E-6
C278 (net10 net3) C=3.7E-13
R279 (net3 net7) R=5.8E6
R280 (net12 net16) R=6.6E2
T281 (net4 net16 net16 0) pfet L=8.21E-6 W=1.24E-6
T282 (vdd! net11 net11 0) nfet L=2.98E-6 W=3.12E-6
T283 (net13 net13 net13 0) pfet L=3.88E-6 W=1.40E-6
T284 (vdd! net5 net5 0) nfet L=3.41E-6 W=4.87E-6
R285 (net1 net11) R=8.7E1
C286 (net16 net3) C=8.6E-14
R287 (net6 net1) R=4.1E6
C288 (0 net5) C=4.6E-9
R289 (0 net5) R=8.0E2
C290 (net5 net10) C=4.8E-8
T291 (net3 net6 net6 0) nfet L=1.55E-6 W=6.62E-6
T292 (0 net12 net12 0) nfet L=7.36E-6 W=7.58E-6
C293 (net13 net5) C=2.5E-6
R294 (net4 0) R=3.6E4
C295 (vdd! net4) C=7.9E-11
T296 (net11 net8 net8 0) pfet L=3.47E-6 W=8.03E-6
C297 (net14 net13) C=2.1E-11
T298 (net14 net7 net7 0) pfet L=3.58E-6 W=9.13E-6
C299 (net3 net8) C=9.8E-6
T300 (net13 net16 net16 0) pfet L=3.19E-6 W=9.56E-6
T301 (net3 net11 net11 0) nfet L=8.00E-6 W=3.31E-6
T302 (net9 net4 net4 0) nfet L=4.15E-6 W=0.26E-6
T303 (net10 net8 net8 0) pfet L=1.66E-6 W=7.83E-6
C304 (net10 net14) C=0.3E-12
T305 (net11 net4 net4 0) pfet L=0.34E-6 W=0.48E-6
C306 (net11 net1) C=6.5E-8
C307 (net10 net8) C=5.9E-12
T308 (net3 net7 net7 0) nfet L=6.84E-6 W=1.66E-6
R309 (net16 net8) R=2.1E4
T310 (net5 net1 net1 0) nfet L=8.91E-6 W=0.37E-6
R311 (net16 net1) R=1.2E0
T312 (net1 net9 net9 0) nfet L=0.39E-6 W=9.95E-6
T313 (net14 net11 net11 0) pfet L=4.67E-6 W=7.07E-6
C314 (net10 net16) C=8.4E-8
T315 (net3 net13 net13 0) pfet L=3.13E-6 W=1.38E-6
T316 (net9 net7 net7 0) nfet L=8.92E-6 W=4.38E-6
T317 (net7 net8 net8 0) nfet L=8.62E-6 W=1.92E-6
R318 (net14 vdd!) R=2.6E6
R319 (net5 net9) R=2.0E5
T320 (net16 net3 net3 0) pfet L=3.56E-6 W=2.34E-6
T321 (net1 net4 net4 0) nfet L=2.47E-6 W=8.24E-6
C322 (net16 net10) C=2.6E-6
T323 (net8 net13 net13 0) nfet L=3.51E-6 W=8.79E-6
T324 (net6 net14 net14 0) pfet L=9.93E-6 W=6.37E-6
T325 (net7 vdd! vdd! 0) pfet L=1.85E-6 W=6.58E-6
T326 (net1 net12 net12 0) nfet L=2.28E-6 W=1.57E-6
R327 (net8 net12) R=6.5E2
T328 (vdd! net10 net10 0) nfet L=1.84E-6 W=9.64E-6
C329 (net4 net14) C=4.2E-11
R330 (net7 net10) R=7.5E2
C331 (net9 net1) C=8.4E-14
T332 (net11 net7 net7 0) nfet L=9.75E-6 W=3.18E-6
C333 (net12 net10) C=0.9E-5
T334 (net8 net4 net4 0) pfet L=3.03E-6 W=1.60E-6
C335 (0 net4) C=9.2E-8
T336 (net11 net11 net11 0) nfet L=5.35E-6 W=4.86E-6

